US08975254B2
a) 2-Chloro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile
1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (6.5 g; 23.28 mmol) and 4-bromo-2-chlorobenzonitrile (4 g; 18.48 mmol) were dissolved in THF (65 ml). To this mixture bis(triphenylphosphine)-palladium(II) chloride (0.65 g; 0.92 mmol), sodium carbonate (4.7 g; 44.3 mmol) and 18 ml of water were added and the reaction mixture was stirred at 35° C. for 2.5 h. The solvents were distilled to almost dryness and water (48 ml) was added. After 30 min of stirring the precipitated product was filtered and 32 ml of ethanol was added to the precipitation. The suspension was stirred for 15 min at RT and 30 min at −10° C. before filtering to give 3.7 g of the product. 1H-NMR (400 MHz; d6-DMSO): δ 1.63-1.54 (m, 3H), 1.84-1.80 (m, 1H), 1.97-1.94 (m, 1H), 2.39-2.35 (m, 1H), 3.63-3.57 (m, 1H), 3.99 (m, 1H), 5.32-5.27 (m, 1H), 6.72 (d, 1H), 7.65 (d, 1H), 7.72 (m, 1H), 7.92 (d, 1H), 8.14 (d, 1H).

reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 23.28 mmol, 6.5 g | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
reactant | 4-bromo-2-chlorobenzonitrile | 18.48 mmol, 4 g | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | sodium carbonate | 44.3 mmol, 4.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 18 ml | O | H2O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.92 mmol, 0.65 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Chloro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile | 3.7 g | ClC1=C(C#N)C=CC(=C1)C1=CC=NN1C1OCCCC1 | C15H14ClN3O
